US08222266B2
Preparation 50: 1-(4-Chloro-butyl)-4-(2,4-dimethyl-thiazol-5-yl)-1H-pyrimidin-2-one (Prep50)
To a solution of 4-(2,4-Dimethyl-thiazol-5-yl)-1H-pyrimidin-2-one (120 mg, 0.58 mmol) in dry DMF (21 ml), 60% NaH (24 mg, 0.75 mmol) was added portionwise under inert atmosphere. After heating the mixture at 100° C. for 1 hour, 1-bromo-4-chloro-butane (86 μl, 0.75 mmol) was added at room temperature and the mixture was stirred overnight then was heated at 69° C. for 2 hours. Water was added and the mixture extracted with diethyl ether to remove the dialkylated product and finally with ethyl acetate. Ethyl acetate was washed with brine, dried (Na2SO4) and evaporated to give 80 mg of the title compound as a solid (48% yield).

reactant | 4-(2,4-Dimethyl-thiazol-5-yl)-1H-pyrimidin-2-one | 0.58 mmol, 120 mg | CC=1SC(=C(N1)C)C1=NC(NC=C1)=O | C9H9N3OS
reactant | NaH | 0.75 mmol, 24 mg | [H-].[Na+]
reactant | 1-bromo-4-chloro-butane | 0.75 mmol, 86 μl | BrCCCCCl | C4H8BrCl
reactant | Water | O | H2O
solvent | DMF | 21 ml | CN(C)C=O | C3H7NO
product | 1-(4-Chloro-butyl)-4-(2,4-dimethyl-thiazol-5-yl)-1H-pyrimidin-2-one | 80 mg, 48% yield | ClCCCCN1C(N=C(C=C1)C1=C(N=C(S1)C)C)=O | C13H16ClN3OS
